### PR TITLE
[Merged by Bors] - feat: `IsLocallyClosedAt` predicate

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyClosed.lean [hunk 1]
```diff
@@ -102,6 +123,154 @@ lemma isClosed_preimage_val_coborder :
...
+  h.preimage <| continuous_inclusion U_sub_V
+
+private lemma mono_aux₃ (U V : Set X) (U_sub_V : U ⊆ V)
+    (h : V ∩ closure s ⊆ s) : U ∩ closure s ⊆ s := by
+  grind
+
+private lemma mono_aux₄ (U V : Set X) (U_sub_V : U ⊆ V)
+    (h : V ∩ s = V ∩ closure s) : U ∩ s = U ∩ closure s := by
+  simp_rw [Set.ext_iff, mem_inter_iff, and_congr_right_iff] at h ⊢
+  exact fun x hx ↦ h x (U_sub_V hx)
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: do you think this would be useful having as a public lemma? (ofc not just for closures, for any sets).

Comment (ADedecker) [reply Mathlib/Topology/LocallyClosed.lean]: Done, I even added the underlying lattice lemma

File: Mathlib/Topology/LocallyClosed.lean [hunk 2]
```diff
@@ -102,6 +123,155 @@ lemma isClosed_preimage_val_coborder :
...
+    (h : IsClosed (V ↓∩ s)) : IsClosed (U ↓∩ s) :=
+  h.preimage <| continuous_inclusion U_sub_V
+
+private lemma mono_aux₃ (U V : Set X) (U_sub_V : U ⊆ V)
+    (h : V ∩ closure s ⊆ s) : U ∩ closure s ⊆ s := by
+  grind
+
+private lemma mono_aux₄ (U V : Set X) (U_sub_V : U ⊆ V)
+    (h : V ∩ s = V ∩ closure s) : U ∩ s = U ∩ closure s := by
+  grind [inter_eq_inter_mono_left]
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: only mono_aux\_2 is used twice, and the rest are used only once, can you just inline them?
but also inline the second one since it's just an immediate proof?

Comment (themathqueen) [reply Mathlib/Topology/LocallyClosed.lean]: also, I'm surprised you need to `grind` them, I would've thought the proofs are immediate from the others

File: Mathlib/Topology/LocallyClosed.lean [hunk 3]
```diff
@@ -102,6 +123,155 @@ lemma isClosed_preimage_val_coborder :
...
+    IsLocallyClosedAt s x :=
+  ⟨s, hx, univ, isClosed_univ, by simp⟩
+
+lemma IsLocallyClosedAt.of_notMem_closure {x : X} (hx : x ∉ closure s) :
+    IsLocallyClosedAt s x :=
+  ⟨(closure s)ᶜ, isClosed_closure.isOpen_compl.mem_nhds hx, closure s, isClosed_closure, by
+    simp [← disjoint_iff_inter_eq_empty, disjoint_compl_left_iff, subset_closure]⟩
+
+lemma IsLocallyClosedAt.inter {x : X} (hs : IsLocallyClosedAt s x) (ht : IsLocallyClosedAt t x) :
+    IsLocallyClosedAt (s ∩ t) x := by
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: can you also add the union version

File: Mathlib/Topology/LocallyClosed.lean [hunk 4]
```diff
@@ -102,6 +123,155 @@ lemma isClosed_preimage_val_coborder :
...
+
+lemma isLocallyClosedAt_iff_eventuallyEq_closure {x : X} : IsLocallyClosedAt s x ↔
+    s =ᶠ[𝓝 x] closure s :=
+  (isLocallyClosedAt_tfae s x).out 1 5
+
+lemma isLocallyClosedAt_iff_closure_eventuallyLE {x : X} : IsLocallyClosedAt s x ↔
+    closure s ≤ᶠ[𝓝 x] s :=
+  (isLocallyClosedAt_tfae s x).out 1 6
+
+lemma isLocallyClosedAt_iff_coborder_mem_nhds {x : X} : IsLocallyClosedAt s x ↔ coborder s ∈ 𝓝 x :=
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean:255]: perhaps add?
```lean
@[simp] lemma interior_coborder : interior (coborder s) = {x | IsLocallyClosedAt s x} := by
  ext; simp [isLocallyClosedAt_iff_coborder_mem_nhds, mem_interior_iff_mem_nhds]
```

File: Mathlib/Topology/LocallyClosed.lean [hunk 5]
```diff
@@ -5,35 +5,56 @@ Authors: Andrew Yang
...
 
-open Set Topology
+open Set Topology Filter
 open scoped Set.Notation
 
 variable {X Y : Type*} [TopologicalSpace X] [TopologicalSpace Y] {s t : Set X} {f : X → Y}
 
+section coborder
+
+lemma mem_coborder_iff_imp {x : X} :
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean:53]: why not just
```suggestion
lemma mem_coborder_iff {x : X} :
```

File: Mathlib/Topology/LocallyClosed.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/LocallyClosed.lean:255]: I don't think this should be `@[simp]`, but I'll add it.

Comment (themathqueen) [reply Mathlib/Topology/LocallyClosed.lean:255]: yeah probably not, whoops

File: Mathlib/Topology/LocallyClosed.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/LocallyClosed.lean:53]: Okay so this is a weird argument: I claim that a lemma named `mem_coborder_iff` should be canonical enough to be tagged `@[simp]`. I'm not confident this is the case here, hence I gave it a more specific name.

File: Mathlib/Topology/LocallyClosed.lean [hunk 6]
```diff
@@ -5,35 +5,56 @@ Authors: Andrew Yang
...
+  A set `s` is locally closed at a point `x` if one of the equivalent conditions below hold
+  1. There is a neighborhood `U` of `x` such that `U ∩ s` can be written `U ∩ Z` for some closed set
+    `Z` (this is the definition).
+  2. There is a neighborhood `U` of `x` such that `U ∩ s` is a closed subset of `U`.
+  3. There is a neighborhood `U` of `x` such that `U ∩ closure s ⊆ s`.
+  4. There is a neighborhood `U` of `x` such that `U ∩ s = U ∩ closure s`.
+  5. `s` and `closure s` coincide eventually near `x`.
+  6. `closure s ⊆ s` eventually near `x`.
+  7. `s` is a neighborhood of `x` inside `closure s`.
+  8. `coborder s` is a neighborhood of `x`.
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: I think you forgot to update the module docstring here

File: Mathlib/Topology/LocallyClosed.lean [hunk 7]
```diff
@@ -5,35 +5,56 @@ Authors: Andrew Yang
 -/
 module
 
+public import Mathlib.Order.Filter.SmallSets
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: is this a necessary import?

File: Mathlib/Topology/LocallyClosed.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Topology/LocallyClosed.lean]: Thanks!!

File: Mathlib/Topology/LocallyClosed.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Topology/LocallyClosed.lean]: No, it's a remnant of some earlier experimentation, I removed it.

File: Mathlib/Topology/LocallyClosed.lean
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: probably add your name since you're now adding the majority of the code?

File: Mathlib/Order/Lattice.lean [hunk 8]
```diff
@@ -302,6 +304,16 @@ theorem sup_eq_sup_iff_left : a ⊔ b = a ⊔ c ↔ b ≤ a ⊔ c ∧ c ≤ a 
...
 
+@[to_dual]
+theorem sup_eq_sup_mono_left (h : a ⊔ b = a ⊔ c) (had : a ≤ d) : d ⊔ b = d ⊔ c := by
+  rw [sup_eq_sup_iff_left] at *
+  exact h.imp (le_trans · (sup_le_sup_right had _)) (le_trans · (sup_le_sup_right had _))
+
+@[to_dual]
+theorem sup_eq_sup_mono_right (h : a ⊔ c = b ⊔ c) (hcd : c ≤ d) : a ⊔ d = b ⊔ d := by
+  rw [sup_eq_sup_iff_right] at *
+  refine h.imp ?_ ?_ <;> intro h' <;> grw [hcd] at h' <;> assumption
```
Comment (themathqueen) [inline Mathlib/Order/Lattice.lean:315]: I don't know about these names (same with the set versions). I can't think of anything better though.

Besides that, I think this looks good, thanks

maintainer merge?

File: Mathlib/Topology/LocallyClosed.lean [hunk 9]
```diff
@@ -1,39 +1,60 @@
...
+public import Mathlib.Topology.NhdsWithin
 public import Mathlib.Tactic.TFAE
 
 /-!
 # Locally closed sets
 
 ## Main definitions
 
+* `IsLocallyClosedAt`: Predicate saying that a set is locally closed at a point
 * `IsLocallyClosed`: Predicate saying that a set is locally closed
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyClosed.lean]: wait, neither of the definitions are in this file, why is this in the module docstring?

**Comment by ADedecker** [comment]
Oh, I forgot something important: there are equalities between sets along filters here, so let's wait for #41533 before merging.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
